* 
* Linear Technology LM108A op amp model (with calls for LH2108A)
* Written: 08-23-1989 15:40:03 Type: Bipolar npn input, external comp.
* Typical specs: 
* Vos=3.0E-04, Ib=5.0E-10, Ios=5.0E-11, GBP=6.0E+05Hz, Phase mar.= 70 deg, 
* SR(+)=2.0E-01V/us, SR(-)=1.9E-01V/us, Av= 110 dB, CMMR= 110 dB, 
* Vsat(+)=1.00V, Vsat(-)=1.00V, Isc=+/- 6.0mA, Iq=  300uA
* (input differential mode clamp active)
* 
* Connections: + - V+V-O CaCb 
.SUBCKT LM108A 3 2 7 4 6 1 8 
* USE C=30 PF IN MAIN CIRCUIT (CA TO CB).
* INPUT
RC1 7 80 8.842E+03
RC2 7 90 8.842E+03
Q1 80 2 10 QM1 
Q2 90 3 11 QM2 
DDM1 2 3 DM2 
DDM2 3 2 DM2 
C1 80 90 5.460E-12
RE1 10 12 2.246E+02
RE2 11 12 2.246E+02
IEE 12 4 6.001E-06
RE 12 0 3.333E+07
CE 12 0 1.579E-12
* INTERMEDIATE 
GCM 0 8 12 0 3.576E-10
GA 8 0 80 90 1.131E-04
R2 8 0 1.000E+05
* EXTERNAL COMP CAP USED FOR C2 (SEE NOTE ABOVE).
GB 1 0 8 0 3.146E+01
* OUTPUT 
RO1 1 6 1.111E+02
RO2 1 0 8.889E+02
RC 17 0 3.533E-04
GC 0 17 6 0 2.830E+03
D1 1 17 DM1 
D2 17 1 DM1 
D3 6 13 DM2 
D4 14 6 DM2 
VC 7 13 1.766E+00
VE 14 4 1.766E+00
IP 7 4 2.940E-04
DSUB 4 7 DM2 
* MODELS 
.MODEL QM1 NPN (IS=8.000E-16 BF=5.714E+03)
.MODEL QM2 NPN (IS=8.093E-16 BF=6.316E+03)
.MODEL DM1 D (IS=1.192E-10)
.MODEL DM2 D (IS=8.000E-16)
.ENDS LM108A
* 
.SUBCKT LH2108A 3 2 7 4 6 1 8 
X_LH2108A 3 2 7 4 6 1 8 LM108A
.ENDS LH2108A
* 
* - - - - - * FINI LM108A FAMILY * - - - - - * [OAMM VN1 8/89]
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1990
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *
